US06316482B1
A solution of 3-benzyloxymethyl-5-nitroisocoumarin (850 mg) in methanol (40.0 ml) was treated with aqueous titanium trichloride (11.2 ml), added as a single portion. After stirring 2 hours at ambient temperature, water (100 ml) and chloroform (120 ml) was added. The whole was carefully basified with saturated sodium bicarbonate aqueous solution and the organic layer was separated. The aqueous layer was further extracted with chloroform (120 ml) and the combined extract was washed with water, dried over magnesium sulfate, and concentrated to afford 3-benzyloxymethyl-5-aminoisocoumarin (806 mg).

reactant | 3-benzyloxymethyl-5-nitroisocoumarin | 850 mg | C(C1=CC=CC=C1)OCC=1OC(=O)C2=CC=CC(=C2C1)[N+](=O)[O-] | C17H13NO5
reactant | water | 100 ml | O | H2O
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40.0 ml | CO | CH4O
catalyst | titanium trichloride | 11.2 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-benzyloxymethyl-5-aminoisocoumarin | 806 mg | C(C1=CC=CC=C1)OCC=1OC(=O)C2=CC=CC(=C2C1)N | C17H15NO3
